US03931239
A stirred suspension of 4,5-dimethylbenzofuran-2-carboxylic acid (18 g.) and valeryl chloride (15 g.) in methylene chloride (300 ml.) is cooled to 5°C. and treated with aluminum chloride (40 g.) in portions during a 1/2 hour period during which time the suspended reactant dissolves. The reaction mixture is stirred at 25° for 2 days then poured into ice water (500 ml.) containing hydrochloric acid (50 ml.). The product (21 g.) separates from the biphasic solution, is filtered and recrystallized from ethanol-water affording 4,5-dimethyl-6-valerylbenzofuran-2-carboxylic acid which melts at 188°-9°C.

reactant | 4,5-dimethylbenzofuran-2-carboxylic acid | 18 g | CC1=C(C=CC2=C1C=C(O2)C(=O)O)C | C11H10O3
reactant | valeryl chloride | 15 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | aluminum chloride | 40 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 4,5-dimethyl-6-valerylbenzofuran-2-carboxylic acid | CC1=C(C(=CC2=C1C=C(O2)C(=O)O)C(CCCC)=O)C | C16H18O4
